US07674924B2
N′-(6-hydroxyhexyl)-N-(4-ethynylphenyl)-pentandiamide:
A solution of (2,5-dioxopyrrolidin-1-yl) 5-(4-ethynylphenyl)amino-5-oxo-pentanate (0.2 g, 0.6 mmol) in CH2Cl2 (10 ml) is added slowly to a solution of 1-amino-6-hexanol (0.35 g, 3.0 mmol) in CH2Cl2 (50 ml) with vigorous stirring. The crude reaction solution is concentrated by rotary evaporation and the mixture is purified by silica column chromatography (10% methanol/5% TEA/CH2Cl2).

reactant | (2,5-dioxopyrrolidin-1-yl) 5-(4-ethynylphenyl)amino-5-oxo-pentanate | 0.6 mmol, 0.2 g | C(#C)C1=CC=C(C=C1)NC(CCCC(=O)ON1C(CCC1=O)=O)=O | C17H16N2O5
reactant | 1-amino-6-hexanol | 3.0 mmol, 0.35 g | NCCCCCCO | C6H15NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N′-(6-hydroxyhexyl)-N-(4-ethynylphenyl)-pentandiamide | OCCCCCCNC(CCCC(=O)NC1=CC=C(C=C1)C#C)=O | C19H26N2O3
